US09079909B2
A mixture of 4-fluorobenzoylacetonitrile (5 g, 30.7 mmol) and ethyl hydrazinoacetate hydrochloride (4.74 g, 30.7 mmol) in ethanol (50 was heated to reflux for 2 h. The reaction mixture was concentrated in vacuo. The crude reaction mixture was partitioned between CH2Cl2 and concentrated aqueous ammonia. The aqueous phase was extracted with CH2Cl2 and the organic phases combined, dried over MgSO4, filtered and evaporated to give ethyl 2-(5-amino-3-(4-fluorophenyl)-1H-pyrazol-1-yl)acetate as a solid (7.4 g), which was used as such in the subsequent step.

reactant | 4-fluorobenzoylacetonitrile | 30.7 mmol, 5 g | FC1=CC=C(C(=O)CC#N)C=C1 | C9H6FNO
reactant | ethyl hydrazinoacetate hydrochloride | 30.7 mmol, 4.74 g | Cl.N(N)CC(=O)OCC
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-(5-amino-3-(4-fluorophenyl)-1H-pyrazol-1-yl)acetate | 7.4 g | NC1=CC(=NN1CC(=O)OCC)C1=CC=C(C=C1)F | C13H14FN3O2
